US04820715
4-Amino-5-chloro-N-[2-(diethylamino)ethyl]-2-(pentan-2-on-3-yl)oxybenzamide
A solution of the tetrabutylammonium salt of 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide (10.5 g, 20 mmoles) (from Prepration No. 3) in acetonitrile (150 ml) was treated with 3-bromo-2-pentanone (3.3 g of 80%, 20 mmoles, contaminated with 15% of 1-bromo-2-pentanone) [obtained according to the procedure of E. T. Borrows, D. O. Holland and J. Kenyon, J. Chem. Soc. 1083, (1946)]. After 3 hours, the solvent was evaporated and the residue partitioned between ethyl acetate and water. The organic phase was washed with water, dried, and the solvent evaporated. The semisolid residue was triturated with ether to yield a solid which was recrystallized from ether--petroleum ether to yield 1.5 g of the title compound, mp. 75°-78°. The NMR spectrum (90 MHz) in CDCl3 gave the following resonances: δ 8.26 (s, 1H); 8.14 (bs, 1H); 6.1 (s, 1H); 4.5 (t, 1H); 4.4 (s, 2H); 3.69 (q, 2H); 2.64 (m, 6H); 2.1 (s, 3H); 2.1-1.7 (m, 2H); 1.05 (m, 9H).

reactant | 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide | 20 mmoles, 10.5 g | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)O | C13H20ClN3O2
reactant | 3-bromo-2-pentanone | 20 mmoles, 3.3 g | BrC(C(C)=O)CC | C5H9BrO
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 4-Amino-5-chloro-N-[2-(diethylamino)ethyl]-2-(pentan-2-on-3-yl)oxybenzamide | 1.5 g | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)OC(C(C)=O)CC | C18H28ClN3O3
